US04906621
To 0.663 g of cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-acetaldehyde in 10 ml anhydrous tetrahydrofuran under nitrogen, cooled to -78°, is added dropwise a solution of 2.21 g of methoxymethyl-triphenylphosphonium chloride in 20 ml of anhydrous tetrahydrofuran to which is added 2.6 ml of potassium tert-butoxide/tetrahydrofuran (1.6M). Solution is stirred at room temperature for 4 hours; 15 ml of 2N hydrochloric acid is added and the mixture stirred for 45 minutes. The solution is concentrated and then extracted with methylene chloride. The extract is dried over sodium sulfate, filtered and concentrated; purification by flash chromatography using ethyl acetate/hexane (1:5 to 3:7) yields cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-propionaldehyde.

reactant | cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-acetaldehyde | 0.663 g | C(C)OC(=O)N1[C@H]([C@H](CC1)CC=O)C(=O)OCC | C12H19NO5
reactant | methoxymethyl-triphenylphosphonium chloride | 2.21 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide tetrahydrofuran | 1.6M, 2.6 ml | CC(C)([O-])C.[K+].O1CCCC1
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-propionaldehyde | C(C)OC(=O)N1[C@H]([C@H](CC1)CCC=O)C(=O)OCC | C13H21NO5
